US05990105
1.50 g (0.00448 mol) of N-methyl-N-[3-(4-nitrobenzenesulphonyl)-phenyl]-acetamide were suspended in 150 ml of ethanol, treated with 0.15 g of Pd/C (10%) and stirred in a H2 atmosphere at room temperature under normal pressure for 2 hrs. Then, the catalyst was filtered off, the filtrate was freed from solvent and the residue was chromatographed on silica gel with ethyl acetate/hexane 2:1. There were obtained 1.19 g (87%) of N-[3-(4-amino-benzenesulphonyl)-phenyl]-N-methyl-acetamide as white crystals; m.p.: 178-180° C.

reactant | N-methyl-N-[3-(4-nitrobenzenesulphonyl)-phenyl]-acetamide | 0.00448 mol, 1.50 g | CN(C(C)=O)C1=CC(=CC=C1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H14N2O5S
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | N-[3-(4-amino-benzenesulphonyl)-phenyl]-N-methyl-acetamide | 1.19 g, 87% | NC1=CC=C(C=C1)S(=O)(=O)C=1C=C(C=CC1)N(C(C)=O)C | C15H16N2O3S
